US08420828B2
1-(1H-Benzo[d]imidazol-6-yl)-3-methoxy-4-methyl-5-(4-phenoxycyclohexyl)-1H-pyrrol-2(5H)-one
The compound was synthesized starting from KOH (15 eq in water), diazald (9 eq), ethylene glycol/Et2O (1/3 v/v, 40 ml), 1-(1H-Benzo[d]imidazol-6-yl)-3-hydroxy-4-methyl-5-(4-phenoxycyclohexyl)-1H-pyrrol-2(5H)-one (0.900 g, 2.23 mmol, 1 eq) and MeOH (10 ml) and was purified by preparative HPLC; yield: 0.051 g (12.2%); MS m/z: 418.2 [M+H]+; 1H-NMR: (400 MHz, DMSO-D6) δ: 12.52 (b, 1H), 8.26-8.25 (d, 1H), 7.67-7.53 (m, 2H), 7.27-7.15 (m, 3H), 4.80-4.72 (m, 1H), 4.50 (s, 0.5H), 4.20 (m, 1H), 3.86 (s, 3H), 2.03-1.90 (m, 4H), 1.69-1.65 (m, 2H), 1.46-1.39 (m, 2H), 1.21-0.99 (m, 2H); HPLC (METHOD [A]): rt 13.30 min (97.08%)

reactant | KOH | 15 eq | [OH-].[K+]
reactant | diazald | 9 eq | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | ethylene glycol Et2O | 40 ml | C(CO)O.CCOCC
reactant | 1-(1H-Benzo[d]imidazol-6-yl)-3-hydroxy-4-methyl-5-(4-phenoxycyclohexyl)-1H-pyrrol-2(5H)-one | 2.23 mmol, 0.900 g, 1 eq | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2CCC(CC2)OC2=CC=CC=C2)C)O)=O | C24H25N3O3
solvent | MeOH | 10 ml | CO | CH4O
product | 1-(1H-Benzo[d]imidazol-6-yl)-3-methoxy-4-methyl-5-(4-phenoxycyclohexyl)-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2CCC(CC2)OC2=CC=CC=C2)C)OC)=O | C25H27N3O3
